US03943124
17β-Cyano-3α-hydroxy-5α-androst-1-ene
p-Toluenesulphonic acid (10 mg.) was added to a stirred solution of 2β-bromo-17β-cyano-3α-hydroxy-5α-androstane (2.65 g.,) and dihydropyran (10 ml.) in dry benzene (200 ml.). After 45 minutes at room temperature the solution was washed with aqueous 10% sodium bicarbonate (25 ml.) and water prior to being dried (MgSO4), filtered and evaporated to give crude 2β-bromo-17β-cyano-3α-(tetrahydropyran-2'ξ-yloxy)-5α-androstane. A mixture of calcium carbonate (15 g.), anhydrous lithium bromide (22.5 g.) and the tetrahydropyranyl derivative in dimethylacetamide (100 ml.) was stirred and heated on an oil bath (110°) for 6 hours. After cooling, the reaction mixture was diluted with chloroform and washed with water before drying (MgSO4) filtration and evaporation to a residue which was dissolved in methanol (100 ml.) and aqueous 2N hydrochloric acid (2 ml.). After 21/2 hours at room temperature and methanol was removed by evaporation and the residue dissolved in chloroform (25 ml.). This solution was washed with aqueous 10% sodium bicarbonate (25 ml.) and water (25 ml.) before drying (MgSO4), filtration and evaporation to a gum (2.55 g.). A sample (1.0 g.), after preparative TLC eluting with acetone/petrol (1:2,), afforded title compound (230 mg.,) as a white froth; [α]D 0°, (c 0.3). A sample was recrystallised from ether/petrol (x2); m.p. 129°-133°; [α]P 4°, c 0.5.

reactant | 2β-bromo-17β-cyano-3α-hydroxy-5α-androstane | 2.65 g | Br[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)C#N)O | C20H30BrNO
reactant | dihydropyran | 10 ml | O1CCCC=C1 | C5H8O
reactant | calcium carbonate | 15 g | C([O-])([O-])=O.[Ca+2]
reactant | lithium bromide | 22.5 g | [Br-].[Li+]
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | p-Toluenesulphonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 17β-Cyano-3α-hydroxy-5α-androst-1-ene | 230 mg | C(#N)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](C=C[C@]3(C)[C@H]1CC2)O | C20H29NO
